Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Percocet / naproxen
 
Attending: ___.
 
Chief Complaint:
Morbid obesity
 
Major Surgical or Invasive Procedure:
___: laparoscopic sleeve gastrectomy

 
History of Present Illness:
Per Dr. ___ has class III morbid obesity with 
weight of 254.7 pounds as of ___ with her initial screen 
weight of 260.3 pounds on ___, height 64 inches and BMI of 
43.7.  Her previous weight loss efforts have included Weight 
Watchers, Slim-Fast, the ___ diet and self-directed diets 
with exercise.  She has not taken prescription weight loss 
medications or used over-the-counter ephedra-containing appetite 
suppressant/herbal supplements.  She stated that her lowest 
adult weight was 150 pounds at the age of ___ and her highest 
weight was her initial screen weight of 260.3 pounds.  She 
weighed 244 pounds ___ years ago and 259 pounds one year ago.  She 
stated that she has been struggling with weight for the past ___ 
years and cites as factors contributing to her excess weight 
menopause (has gained 15 pounds), large portions, grazing, 
late-night eating, convenience
eating, too many carbohydrates and a lack of exercise regimen.  
She does walk 5 times a week for ___ minutes.  She denied 
history of eating disorders - no anorexia, bulimia, diuretic or 
laxative abuse and she denied binge eating.  She does not have a 
clinical diagnosis of depression except for situational around 
her weight and she has not an followed by a therapist nor has 
she been hospitalized for mental health issues and she is not on 
any
psychotropic medications.

 
Past Medical History:
1)  hypertension
2)  obstructive sleep apnea does not wear CPAP
3)  hyperlipidemia
4)  hepatic steatosis (Fibroscan ___
5)  pre-diabetes with hemoglobin A1c of 5.9%
6)  osteoarthritis of lower extremity joints with knee pain
7)  history of kidney stones
8)  hyperuricemia
9)  vitamin D deficiency

Her surgical history is noted for:

1)  right knee manipulation ___
2)  total right knee replacement ___
3)  unilateral salpingo-oophrectomy ___
4)  lithotripsy ___ 

 
Social History:
___
Family History:
Family history is noted for father living age ___ with heart 
disease, vascular disease, hypertension, diabetes; mother 
deceased age ___ with type 2 diabetes, stroke/aneurysm, 
osteoarthritis, hypertension, cataracts and glaucoma as well as 
obesity; 3 brothers one with diabetes; one sister alive and 
well.
 
Physical Exam:
Preoperatively,
GEN: A&Ox3, NAD 
HEENT: NCAT, EOMI, sclera anicteric  
CV: RRR  
PULM: no respiratory distress  
ABD: soft, NT, ND
EXT: warm, well-perfused, no edema  

Upon discharge, 
GEN: A&Ox3, NAD 
HEENT: NCAT, EOMI, sclera anicteric  
CV: RRR  
PULM: no respiratory distress  
ABD: soft, appropriately tender, ND, no rebound or guarding, 
binder in place 
EXT: warm, well-perfused, no edema  
PSYCH: normal insight, memory, and mood  
WOUND(S): Incisions c/d/i  
 
Brief Hospital Course:
Ms. ___ is a ___ with morbid obesity who underwent a 
laparoscopic sleeve gastrectomy on ___.  There were no 
adverse events in the operating room; please see the operative 
note for details. Pt was extubated, taken to the PACU until 
stable, then transferred to the ward for observation.  
Neuro: The patient was alert and oriented throughout 
hospitalization; pain was managed with a preoperative TAP block 
and postoperative ketorolac, gabapentin and acetaminophen; 
opioid medication was used only for severe breakthrough pain 
prn.
CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.  
Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet, early ambulation and incentive spirometry were 
encouraged throughout hospitalization.  
GI/GU/FEN: The patient was initially kept NPO. Afterwards, the 
patient was started on a stage 1 bariatric diet, which the 
patient tolerated well. Subsequently, the patient was advanced 
to stage 2,  which the patient was tolerating on day of 
discharge.  
ID: The patient's fever curves were closely watched for signs of 
infection, of which there were none.  
Prophylaxis: The patient received subcutaneous heparin and ___ 
dyne boots were used during this stay and was encouraged to get 
up and ambulate as early as possible.  
At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable. The patient was tolerating a 
bariatric stage 2 diet, ambulating, voiding without assistance, 
and pain was well controlled. The patient received discharge 
teaching and follow-up instructions with understanding 
verbalized and agreement with the discharge plan.  
 

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Losartan Potassium 100 mg PO DAILY 
2. Labetalol 200 mg PO BID 
3. Fluticasone Propionate NASAL 2 SPRY NU ASDIR 
4. Multivitamins 1 TAB PO DAILY 
5. Aspirin 81 mg PO DAILY 
6. albuterol sulfate 90 mcg/actuation inhalation ASDIR 
7. Chlorthalidone 25 mg PO DAILY 
8. Vitamin D ___ UNIT PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Morbid obesity
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms ___, 
You have undergone a laparoscopic sleeve gastrectomy, recovered 
in the hospital and are now preparing for discharge to home with 
the following instructions:

Please call your surgeon or return to the Emergency Department 
if you develop a fever greater than ___ F, shaking chills, chest 
pain, difficulty breathing, pain with breathing, cough, a rapid 
heartbeat, dizziness, severe abdominal pain, pain unrelieved by 
your pain medication, a change in the nature or severity of your 
pain, severe nausea, vomiting, abdominal bloating, severe 
diarrhea, inability to eat or drink, foul smelling or colorful 
drainage from your incisions, redness, swelling from your 
incisions, or any other symptoms which are concerning to you.  
Diet: Stay on Stage II diet until your follow up appointment; 
this stage was previously called stage III and consists of 
protein shakes, sugar free smooth pudding/ yogurt, etc; please 
refer to your work book for detailed instructions. Do not self- 
advance your diet and avoid drinking with a straw or chewing 
gum. To avoid dehydration, remember to sip small amounts of 
fluid frequently throughout the day to reach a goal of 
approximately ___ mL per day. Please note the following signs 
of dehydration: dry mouth, rapid heartbeat, feeling dizzy or 
faint, dark colored urine, infrequent urination.  
Medication Instructions:  
Please refer to the medication list provided with your discharge 
paperwork for detailed instruction regarding your home and newly 
prescribed medications.  
Some of the new medications you will be taking include:  
1. Pain medication: You will receive a prescription for liquid 
acetaminophen (Tylenol), do not exceed 3000 mg per 24 hour 
period.  
2. Antacids: You will be taking famotidine tablets, 20 mg twice 
daily, for one month. This medicine reduces stomach acid 
production. Please crush.  
3. You must not use NSAIDS (non-steroidal anti-inflammatory 
drugs) unless approved by your Weight Loss Surgery team. 
Examples include, but are not limited to Aleve, Arthrotec, 
aspirin, Bufferin, diclofenac, Ecotrin, etodolac, ibuprofen, 
Indocin, indomethacin, Feldene, ketorolac, meclofenamate, 
meloxicam, Midol, Motrin, nambumetone, Naprosyn, Naproxen, 
Nuprin, oxaprozin, Piroxicam, Relafen, Toradol and Voltaren. 
These agents may cause bleeding and ulcers in your digestive 
system. If you are unclear whether a medication is considered an 
NSAID, please ask call your nurse or ask your pharmacist.  
4. Vitamins/ minerals: You may resume a chewable multivitamin, 
however, please discuss when to resume additional vitamin and 
mineral supplements with your bariatric dietitian.  
Activity:  
You should continue walking frequently throughout the day right 
after surgery; you may climb stairs.  
You may resume moderate exercise at your discretion, but avoid 
performing abdominal exercises or lifting items greater than10 
to 15 pounds for six weeks.  
Wound Care:  
You may remove any remaining gauze from over your incisions. You 
will have thin paper strips (Steri-Strips) over your incision; 
please, remove any remaining Steri-Strips seven to 10 days after 
surgery.  
You may shower 48 hours following your surgery; avoid scrubbing 
your incisions and gently pat them dry. Avoid tub baths or 
swimming until cleared by your surgeon. You may wear your 
abdominal binder as needed for comfort.  
If there is clear drainage from your incisions, cover with 
clean, dry gauze.  
Please call the doctor if you have increased pain, swelling, 
redness, cloudy, bloody or foul smelling drainage from the 
incision sites.  
Avoid direct sun exposure to the incision area for up to 24 
months.  
Do not use any ointments on the incision unless you were told 
otherwise.  
 
Followup Instructions:
___